US06180637B2
1-(3,4-Dichlorobenzyl)-2-(2-hydroxy-5-nitrobenzyl)-5-methylthio-1,2-dihydroindazol-3-one hydrate
3.6 g (11 mmol) of 1-(3,4-dichlorobenzyl)-5-methylthio-1H-indazol-3-ol are dissolved in 100 ml of DMSO and treated in portions with 0.34 g (13.2 mmol) of sodium hydride (95 percent). After stirring for 2 hours, a solution of 2.1 g (11 mmol) of 2-hydroxy-5-nitrobenzyl chloride in 20 ml of DMSO is added dropwise and the mixture is stirred at 60° C. for 3 hours. After cooling, 200 ml of water are added dropwise, the mixture is stirred for 4 hours and the solid is filtered off with suction. The precipitate is extracted by stirring with methanol whilst hot and recrystallized from 2-propanol.

reactant | 1-(3,4-dichlorobenzyl)-5-methylthio-1H-indazol-3-ol | 11 mmol, 3.6 g | ClC=1C=C(CN2N=C(C3=CC(=CC=C23)SC)O)C=CC1Cl | C15H12Cl2N2OS
reactant | sodium hydride | 13.2 mmol, 0.34 g | [H-].[Na+]
reactant | 2-hydroxy-5-nitrobenzyl chloride | 11 mmol, 2.1 g | OC1=C(CCl)C=C(C=C1)[N+](=O)[O-] | C7H6ClNO3
reactant | water | 200 ml | O | H2O
solvent | DMSO | 100 ml | CS(=O)C | C2H6OS
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
product | 1-(3,4-Dichlorobenzyl)-2-(2-hydroxy-5-nitrobenzyl)-5-methylthio-1,2-dihydroindazol-3-one hydrate | O.ClC=1C=C(CN2N(C(C3=CC(=CC=C23)SC)=O)CC2=C(C=CC(=C2)[N+](=O)[O-])O)C=CC1Cl | InChI=1S/C22H17Cl2N3O4S.H2O/c1-32-16-4-6-20-17(10-16)22(29)26(12-14-9-15(27(30)31)3-7-21(14)28)25(20)11-13-2-5-18(23)19(24)8-13;/h2-10,28H,11-12H2,1H3;1H2
